US07671043B2
7B. 3-{4-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid, hydrochloride salt
HCl (4.0 M in dioxane, 21.6 mL) and water (3.6 mL) was added to a solution of 3-{4-[5(4-isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid tert-butyl ester (4.0 g, 8.67 mmol) in dioxane (20.0 mL) and stirred at room temperature for 1 hour. Diethyl ether (50.0 mL) was added to the reaction mixture and the resulting slurry was stirred for 2 hours and filtered to yield the title compound (2.8 g, 79% yield) as a solid.

reactant | HCl | 4.0 M, 21.6 mL | Cl | ClH
reactant | water | 3.6 mL | O | H2O
reactant | 3-{4-[5(4-isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid tert-butyl ester | 8.67 mmol, 4.0 g | C(C)(C)(C)OC(=O)[C@@H]1C[C@@H](C1)NCC1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C28H35N3O3
reactant | Diethyl ether | 50.0 mL | C(C)OCC | C4H10O
solvent | dioxane | 20.0 mL | O1CCOCC1 | C4H8O2
product | 3-{4-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazole-3-yl]-benzylamino}-cis-cyclobutanecarboxylic acid, hydrochloride salt | 2.8 g, 79% yield | Cl.C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(CN[C@H]2C[C@H](C2)C(=O)O)C=C1 | InChI=1S/C24H27N3O3.ClH/c1-15(2)11-16-3-9-19(10-4-16)23-26-22(27-30-23)18-7-5-17(6-8-18)14-25-21-12-20(13-21)24(28)29;/h3-10,15,20-21,25H,11-14H2,1-2H3,(H,28,29);1H/t20-,21+;
